US04045429
a. 4-(4-hydroxy-3-carbomethoxy-phenylazo)-benzenesulphonyl chloride
17.6 g of potassium 4-(4-hydroxy-3-carbomethoxy-phenylazo)-benzenesulphonate, 30 ml of benzene, 2 ml of dimethylformamid and 6 ml of thionyl chloride are heated to the boiling point under reflux for 30 min. The mixture is cooled, and cold water and 100 ml of petroleum ether are added with rapid stirring. The product is filtered off and washed with water and dried, whereupon 15.4 g of the title compound are obtained. The melting point is 137° - 138° C. after recrystallization.

reactant | potassium 4-(4-hydroxy-3-carbomethoxy-phenylazo)-benzenesulphonate | 17.6 g | OC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)S(=O)(=O)[O-])C(=O)OC.[K+]
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | dimethylformamid | 2 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 4-(4-hydroxy-3-carbomethoxy-phenylazo)-benzenesulphonyl chloride | OC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)S(=O)(=O)Cl)C(=O)OC | C14H11ClN2O5S
